US06207845B1
The crude octyl glycidyl ether (175 g), water (110 g; 6.111 mol), lauric acid (7.10 g; 0.033 mol) and sodium hydroxide (0.71 g; 0.018 mol) were placed in a 2-l autoclave, and the mixture was heated up to 157° C. while stirring it. The mixture was stirred for 5 hours as it was, and was then allowed to cool down to room temperature. The mixture was extracted with ethyl acetate (500 ml), and the extract was washed twice with water (300 ml). The solvent was then distilled off to obtain 165 g of crude monooctyl glyceryl ether. This crude product was purified by vacuum distillation (0.4-0.5 mmHg, 120-123° C.) to obtain 124 g of monooctyl glyceryl ether as a colorless transparent oil (total yield: 75%). Quenching of a proton signal (methylene in an epoxy ring) at δ=2.65, 2.80 was observed by 1H-NMR (200 MHz), thereby identifying the compound. The purity of the compound was found to be 99% by GLC.

reactant | octyl glycidyl ether | 175 g | C(C1CO1)OCCCCCCCC | C11H22O2
reactant | water | 6.111 mol, 110 g | O | H2O
catalyst | lauric acid | 0.033 mol, 7.10 g | C(CCCCCCCCCCC)(=O)O | C12H24O2
catalyst | sodium hydroxide | 0.018 mol, 0.71 g | [OH-].[Na+]
product | monooctyl glyceryl ether | 165 g | C(C(O)CO)OCCCCCCCC | C11H24O3
